US08685975B2
1-(3-(3,4-Dimethoxyphenyl)-1H-Pyrazol-1-Yl)-2-(4-Fluorophenyl)-2-Methoxyethanone
To a solution of 2-(4-fluorophenyl)-2-methoxyacetic acid (0.11 g, 0.61 mmol) in anhydrous THF (2 mL) at room temperature was added DCC (0.14 g, 0.67 mmol) in one portion. After stirring for 10 min, 3-(3,4-dimethoxyphenyl)-1H-pyrazole (0.14 g, 0.67 mmol) was added in one portion. After 48 hrs, the reaction mixture was diluted with EtOAc and the solids removed via filtration. The filtrate was concentrated in vacuo. Purification by chromatography (0-30% EtOAc-hexanes) gave the product as an oil (0.12 g, 46% yield). MS: m/z 371.1 [M+H]+.

reactant | 2-(4-fluorophenyl)-2-methoxyacetic acid | 0.61 mmol, 0.11 g | FC1=CC=C(C=C1)C(C(=O)O)OC | C9H9FO3
reactant | DCC | 0.67 mmol, 0.14 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 3-(3,4-dimethoxyphenyl)-1H-pyrazole | 0.67 mmol, 0.14 g | COC=1C=C(C=CC1OC)C1=NNC=C1 | C11H12N2O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3-(3,4-Dimethoxyphenyl)-1H-Pyrazol-1-Yl)-2-(4-Fluorophenyl)-2-Methoxyethanone | 0.12 g, 46% yield | COC=1C=C(C=CC1OC)C1=NN(C=C1)C(C(OC)C1=CC=C(C=C1)F)=O | C20H19FN2O4
